** sch_path: /workspace/project/even_parity_generator/testbench/spice/tb_even_parity_gen_xor_12t.sch
**.subckt tb_even_parity_gen_xor_12t OUT_PARITY IN_0 IN_1 IN_2 IN_3 IN_4 IN_5 IN_6 IN_7
*.opin OUT_PARITY
*.ipin IN_0
*.ipin IN_1
*.ipin IN_2
*.ipin IN_3
*.ipin IN_4
*.ipin IN_5
*.ipin IN_6
*.ipin IN_7
x1 VDD 0 IN_0 IN_1 IN_2 IN_3 OUT_PARITY IN_4 IN_5 IN_6 IN_7 even_parity_gen_xor_12t
**** begin user architecture code

.include /workspace/project/even_parity_generator/testbench/spice/code/even_parity_gen_xor_12t.spice

**** end user architecture code
**.ends

* expanding   symbol:  schematic/even_parity_gen_xor_12t.sym # of pins=11
** sym_path: /workspace/project/even_parity_generator/schematic/even_parity_gen_xor_12t.sym
** sch_path: /workspace/project/even_parity_generator/schematic/even_parity_gen_xor_12t.sch
.subckt even_parity_gen_xor_12t VDD GND I0 I1 I2 I3 O0 I4 I5 I6 I7
*.iopin VDD
*.iopin GND
*.ipin I0
*.ipin I1
*.ipin I2
*.ipin I3
*.ipin I4
*.ipin I5
*.ipin I6
*.ipin I7
*.opin O0
x1 VDD net1 I0 I1 GND xor_12t
x2 VDD net2 I2 I3 GND xor_12t
x3 VDD net3 I4 I5 GND xor_12t
x4 VDD net4 I6 I7 GND xor_12t
x5 VDD net6 net1 net2 GND xor_12t
x6 VDD net5 net3 net4 GND xor_12t
x7 VDD O0 net6 net5 GND xor_12t
.ends


* expanding   symbol:  schematic/xor_12t.sym # of pins=5
** sym_path: /workspace/project/even_parity_generator/schematic/xor_12t.sym
** sch_path: /workspace/project/even_parity_generator/schematic/xor_12t.sch
.subckt xor_12t VDD Y A B GND
*.ipin A
*.opin Y
*.iopin VDD
*.iopin GND
*.ipin B
XM1 A_inv A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM2 A_inv A GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM3 B_inv B VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM4 B_inv B GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM5 net1 B VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM6 Y A_inv net1 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM7 net2 A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM8 Y B_inv net2 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM9 Y A net3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM10 net3 B GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM11 Y A_inv net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM12 net4 B_inv GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
.ends

.GLOBAL VDD
.end
